US07585880B2
methyl 3-{4-[(3-aminobenzyl)oxy]phenyl}-propanoate
To a solution of methyl 3-(4-hydroxyphenyl)propanoate (5.10 g, 28.3 mmol) in N,N-dimethylformamide (40 mL) was added sodium hydride (in oil, 1.20 g, 30 mmol) at 0° C. and the mixture was stirred at the same temperature for 1 hr. 3-Nitrobenzylbromide (6.72 g, 31.1 mmol) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a yellow oil. To a mixture of the obtained oil, tetrahydrofuran (50 mL) and ethanol (50 mL) was added platinum dioxide (350 mg) and the mixture was stirred under a hydrogen atmosphere for 16 hr. Insoluble materials were filtered off, and the filtrate was concentrated to give the title compound (7.73 g, yield 96%, 2 steps) as pale-yellow crystals.

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 28.3 mmol, 5.10 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | sodium hydride | 30 mmol, 1.20 g | [H-].[Na+]
reactant | 3-Nitrobenzylbromide | 31.1 mmol, 6.72 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | platinum dioxide | 350 mg | [Pt](=O)=O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 3-{4-[(3-aminobenzyl)oxy]phenyl}-propanoate | 7.73 g, yield 96% | NC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H19NO3
